US05250527
Piperidine (31.7 ml) and 4 -chloro-2 -picoline (13.65 g) were heated together in a bomb at 170 ° for 4.5 hours. After cooling, the mixture was taken up in water and extracted with ether. After drying (K2CO3) and stripping, the residue was distilled to give 4 -piperidino-2 -picoline, 15.45 g, b.p. 105°-10 ° (0.1 mm).

reactant | Piperidine | 31.7 ml | N1CCCCC1 | C5H11N
reactant | 4 -chloro-2 -picoline | 13.65 g | ClC1=CC(=NC=C1)C | C6H6ClN
solvent | water | O | H2O
product | 4 -piperidino-2 -picoline | N1(CCCCC1)C1=CC(=NC=C1)C | C11H16N2
